US07115611B2
A] In analogy to the procedures described in example 26B] and 124C], 2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylamine (example 125C]) was reacted with 2-(4-carboxymethyl-phenoxy)-2-methyl-propionic acid tert-butyl ester (example 124A]) to give 2-methyl-2-(4-{[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylcarbamoyl]-methyl}-phenoxy)-propionic acid tert-butyl ester, which was subsequently cleaved with trifluoroacetic acid to yield the title compound as colorless solid.

reactant | 2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylamine | CC1=NC(=CC=C1N)C1=CC=C(C=C1)C(F)(F)F | C13H11F3N2
reactant | 2-(4-carboxymethyl-phenoxy)-2-methyl-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)(C)OC1=CC=C(C=C1)CC(=O)O)=O | C16H22O5
product | 2-methyl-2-(4-{[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylcarbamoyl]-methyl}-phenoxy)-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)(OC1=CC=C(C=C1)CC(NC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O)C)=O | C29H31F3N2O4
